US03991204
Preparation of 3',4'-Dichloro-4-hydroxy-2-oxo-2H-1-benzopyran-3-carboxanilide
To 8.1 g (0.05 mole) of 4-hydroxy-2-oxo-2H-1-benzopyran dissolved in 200 ml acetone is added 5.6 g (0.05 mole) of triethylamine, followed by the addition of 3,4-dichlorophenyl isocyanate. The mixture is heated to reflux, and in 1/2 hour none of the isocyanate is left as determined by infra-red. The acetone solution is concentrated and the yellow viscous liquid is taken up in chloroform and washed with dilute hydrochloric acid. A white solid precipitates from the chloroform-acid mixture and is collected by filtration. The insoluble white solid is slurried in boiling acetone to yield 11.0 g of pure white powder, the product, m.p. 227°C to 228°C.

reactant | 4-hydroxy-2-oxo-2H-1-benzopyran | 0.05 mole, 8.1 g | OC1=CC(OC2=C1C=CC=C2)=O | C9H6O3
reactant | triethylamine | 0.05 mole, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | isocyanate | [N-]=C=O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3',4'-Dichloro-4-hydroxy-2-oxo-2H-1-benzopyran-3-carboxanilide | 11.0 g | ClC=1C=C(NC(=O)C=2C(OC3=C(C2O)C=CC=C3)=O)C=CC1Cl | C16H9Cl2NO4
